US07618975B2
(2-Azido-quinazolin-4-yl)-(4-methoxy-phenyl)-methyl-amine
The title compound was prepared from (2-chloro-quinazolin-4-yl)-(4-methoxy-phenyl)-methyl-amine (150 mg, 0.5 mmol), sodium azide (97.5 mg, 1.5 mmol) in 5 mL of solvent (THF:MeOH:water=0.3:1:1) by a procedure similar to that of example 120 (4%). 1H NMR (CDCl3): 8.45 (d, J=8.4 Hz, 1H), 7.78-7.72 (m, 1H), 7.27-7.22 (m, 2H), 7.19-7.14 (m, 2H), 6.95 (d, J=8.7 Hz, 2H), 3.86 (s, 3H), 3.69 (s, 3H).

reactant | (2-chloro-quinazolin-4-yl)-(4-methoxy-phenyl)-methyl-amine | 0.5 mmol, 150 mg | ClC1=NC2=CC=CC=C2C(=N1)N(C)C1=CC=C(C=C1)OC | C16H14ClN3O
reactant | sodium azide | 1.5 mmol, 97.5 mg | [N-]=[N+]=[N-].[Na+]
product | (2-Azido-quinazolin-4-yl)-(4-methoxy-phenyl)-methyl-amine | N(=[N+]=[N-])C1=NC2=CC=CC=C2C(=N1)N(C)C1=CC=C(C=C1)OC | C16H14N6O
